US07601716B2
2-(2,5-Difluorophenyl)-1-{7-[2-(4-methylpiperazin-1-yl)pyridin-4-yl]-3,4-dihydro-2H-pyrido[2,3-b]pyrazin-1-yl}ethanone
2-(2,5-Difluorophenyl)-1-(7-iodo-3,4-dihydro-2H-pyrido[2,3-b]pyrazin-1-yl)-ethanone (30 mg) was reacted with 1-methyl-4-[5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)pyridin-2-yl]piperazine as in General Procedure 4A to give the title compound as a light yellow solid (15% yield). M.p.>300° C., LCMS: m/z=465.02 (M+H+), 1H-NMR (CDCl3, 400 MHz) δ 2.36 (s, 3H), 2.52-2.57 (m, 2H), 3.52-3.62 (m, 6H), 3.90-3.96 (m, 4H), 5.11 (bs, 1H), 6.70 (d, J=8.8 Hz, 1H), 6.90-7.04 (m, 3H), 7.41-7.58 (m, 2H), 8.07 (s, 1H), 8.32 (s, 1H).

reactant | 2-(2,5-Difluorophenyl)-1-(7-iodo-3,4-dihydro-2H-pyrido[2,3-b]pyrazin-1-yl)-ethanone | 30 mg | FC1=C(C=C(C=C1)F)CC(=O)N1C2=C(NCC1)N=CC(=C2)I | C15H12F2IN3O
reactant | 1-methyl-4-[5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)pyridin-2-yl]piperazine | CN1CCN(CC1)C1=NC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C16H26BN3O2
product | 2-(2,5-Difluorophenyl)-1-{7-[2-(4-methylpiperazin-1-yl)pyridin-4-yl]-3,4-dihydro-2H-pyrido[2,3-b]pyrazin-1-yl}ethanone | 15% yield | FC1=C(C=C(C=C1)F)CC(=O)N1C2=C(NCC1)N=CC(=C2)C2=CC(=NC=C2)N2CCN(CC2)C | C25H26F2N6O
